US05466661
DMF (3 ml) and imidazole (0.41 g) were added to α-chloro-2-(4-chlorobenzylthio)benzaldehyde O-ethyloxime (0.68 g), and the mixture was stirred at 170° C. for 21 hours. After completion of the reaction, ether (100 ml) was added, and the mixture was washed with brine (80 ml) twice, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting crude product was purified by silica gel chromatography and recrystallized from ethyl acetate/n-hexane to give 2-(4-chlorobenzylthio)-α-(1-imidazolyl)benzaldehyde O-ethyloxime (0.11 g) as colorless crystals. mp. 96.5°-97.5° C.

reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | imidazole | 0.41 g | N1C=NC=C1 | C3H4N2
reactant | α-chloro-2-(4-chlorobenzylthio)benzaldehyde O-ethyloxime | 0.68 g | C(C)ON=C(C1=C(C=CC=C1)SCC1=CC=C(C=C1)Cl)Cl | C16H15Cl2NOS
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-(4-chlorobenzylthio)-α-(1-imidazolyl)benzaldehyde O-ethyloxime | 0.11 g | C(C)ON=C(C1=C(C=CC=C1)SCC1=CC=C(C=C1)Cl)N1C=NC=C1 | C19H18ClN3OS
